US06903215B2
Synthesis of 1-cyclohexyl-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one
To a solution of cyclohexylmethyl bromide (0.26 g) in THF (1 mL) cooled to −70° C. under argon, tert-butyl lithium (1.7 M in pentane, 1.8 mL) was added dropwise over 5 minutes. The mixture was stirred at −70° C. for 30 minutes. A solution of 3-(5-fluoro-2-methoxyphenyl)-3-methyl-1-morpholin-4-ylbutan-1-one (0.33 g) in THF (1 mL) was added all at once and the mixture was stirred for one hour. The reaction temperature rose to approximately coming to −20° C. The reaction was quenched with EtOH (0.3 mL), and warmed to room temperature. The mixture was diluted with EtOAc, washed with water, dried, filtered, and evaporated. Chromatography of the residue over silica gel (eluent: hexanes-methylene chloride gradient) gave the title compound as an oil (0.2 g).

reactant | cyclohexylmethyl bromide | 0.26 g | C1(CCCCC1)CBr | C7H13Br
reactant | tert-butyl lithium | 1.7 M, 1.8 mL | C(C)(C)(C)[Li]
reactant | 3-(5-fluoro-2-methoxyphenyl)-3-methyl-1-morpholin-4-ylbutan-1-one | 0.33 g | FC=1C=CC(=C(C1)C(CC(=O)N1CCOCC1)(C)C)OC | C16H22FNO3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-cyclohexyl-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-one | 0.2 g | C1(CCCCC1)CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O | C19H27FO2
